* single temperature statement
* Xyce netlist for corresponding HSPICE netlist
* This netlist tests XDM HSPICE translation of
* single .TEMP statements. The .TEMP statements
* should be translated into a .STEP command

.OPTIONS DEVICE TNOM=25 
VA 1 0 DC 0
R1 1 2 R=10
R2 2 0 TC=0.001 R=10

.DC LIN VA 0 10 1
.STEP LIN TEMP 85 85 1 
.PRINT DC FORMAT=PROBE V(1) V(2)
